US04225589
Sodium (3.54 g) is dissolved in methanol (140 cc) and a solution of 4-methylthiophenol (21.8 g) in methanol (25 cc) is added. The mixture is stirred for 1 hour at 20° C. and a solution of ethyl dichloroacetate (12.5 g) in methanol (30 cc) is then added. The mixture is allowed to cool, the white precipitate obtained is filtered off, and the filtrate is concentrated to dryness under reduced pressure (20 mmHg) at 40° C. The oil obtained is taken up in diethyl ether (250 cc) and washed four times with N sodium hydroxide solution (50 cc each time) and four times with distilled water (50 cc each time). The ethereal phase is dried over anhydrous sodium sulphate, filtered, treated with animal charcoal, filtered and concentrated to dryness under reduced pressure (20 mmHg) at 40° C. Ethyl 2,2-bis(4-methylthiophenoxy)acetate (18 g) is thus obtained as a yellow oil.

reactant | Sodium | 3.54 g | [Na] | Na
reactant | 4-methylthiophenol | 21.8 g | CC1=CC=C(C=C1)S | C7H8S
reactant | ethyl dichloroacetate | 12.5 g | ClC(C(=O)OCC)Cl | C4H6Cl2O2
solvent | methanol | 140 cc | CO | CH4O
solvent | methanol | 25 cc | CO | CH4O
solvent | methanol | 30 cc | CO | CH4O
solvent | diethyl ether | 250 cc | C(C)OCC | C4H10O
product | Ethyl 2,2-bis(4-methylthiophenoxy)acetate | 18 g | CC1=CC=C(SC(C(=O)OCC)SC2=CC=C(C=C2)C)C=C1 | C18H20O2S2
